US07157591B2
(h) Dimethylsilanediylbis[2,5-dimethyl-4-(3,5-dimethylphenyl)indene]
Dichlorodimethylsilane (0.40 g, 3.1 mmol) was dissolved in 40 ml of THF. While stirring, lithium[2,5-dimethyl-4-(3,5-dimethylphenyl)indenide] (1.6 g, 6.2 mmol), prepared as described under (g) above, was added as a dry powder and the resultant mixture was stirred overnight at room temperature. Thereafter the solvent was removed in vacuo and the residue was taken up in pentane and filtered to remove LiCl. The pentane was removed in vacuo to yield a flaky white solid (1.7 g, 100%).

reactant | Dichlorodimethylsilane | 3.1 mmol, 0.40 g | Cl[Si](C)(C)Cl | C2H6Cl2Si
reactant | lithium[2,5-dimethyl-4-(3,5-dimethylphenyl)indenide] | 6.2 mmol, 1.6 g | CC=1[CH-]C2=CC=C(C(=C2C1)C1=CC(=CC(=C1)C)C)C.[Li+]
solvent | THF | 40 ml | C1CCOC1 | C4H8O
product | Dimethylsilanediylbis[2,5-dimethyl-4-(3,5-dimethylphenyl)indene] | 1.7 g, 100% | C[Si](C1C(=CC2=C(C(=CC=C12)C)C1=CC(=CC(=C1)C)C)C)(C1C(=CC2=C(C(=CC=C12)C)C1=CC(=CC(=C1)C)C)C)C | C40H44Si
